US06262045B1
11.5. 7-Chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxaldehyde
5.7 g (65.6 mmol) of manganese dioxide are added to a solution of 3.3 g (9.7 mmol) of 7-chloro-1-(hydroxymethyl)-5-methyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one in 300 ml of dichloromethane and the reaction mixture is stirred for 24 hours at reflux. The mixture is cooled and filtered through a Teflon® membrane, the solid is rinsed with dichloromethane and then the filtrate is concentrated under reduced pressure. 2:88 g (8.53 mmol) of compound are isolated in the form of a white solid which is used as is in the following stage.

reactant | 7-chloro-1-(hydroxymethyl)-5-methyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one | 9.7 mmol, 3.3 g | ClC=1C=CC=2C3=C(N(C2C1)C)C(N(N=C3CO)C3=CC=CC=C3)=O | C18H14ClN3O2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 65.6 mmol, 5.7 g | [O-2].[O-2].[Mn+4]
product | 7-Chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxaldehyde | 8.53 mmol, 88 g | ClC=1C=CC=2C3=C(N(C2C1)C)C(N(N=C3C=O)C3=CC=CC=C3)=O | C18H12ClN3O2
